* tb_gain_gbw_pm.spice -- provisional open-loop AC testbench for the
* two-stage Miller-compensated op-amp (DR-0001,
* spec/decision-records/0001-topology-and-cl.md).
*
* THIS IS A SMOKE-LEVEL, PROVISIONAL NETLIST -- explicitly not a sizing
* pass. No design/ schematic exists yet for this block (issue #19's own
* scope note); this netlist exists only to establish the sim/<name>/
* structure and one-command driver pattern ahead of the schematic-entry
* and spec-ratification sibling issues. Device widths/lengths/bias
* currents below are illustrative, chosen to converge and produce sane
* small-signal behaviour -- not the product of a gm/ID sizing pass.
*
* ---- Topology (DR-0001) ----
*   - First stage: NMOS input differential pair (M1/M2, nfet_03v3) with a
*     PMOS current-mirror load (M3 diode-connected, M4 mirror; pfet_03v3).
*     First-stage output = node d2 (M2/M4 shared drain).
*   - Second stage: PMOS common-source gain device (M5, pfet_03v3), gate
*     driven by d2, single-ended output at `vout`.
*   - Miller compensation: Cc between d2 (first-stage output) and vout
*     (second-stage output).
*   - CL = 2 pF at vout, per DR-0001 (spec/target-spec.md Sec.1, [DR-1]).
*
* ---- Bias simplification (explicit, per issue #19) ----
* The tail current (Itail) and the second-stage bias current (Ibias2) are
* IDEAL SPICE current sources, not a self-biased mirror/reference network.
* This deliberately factors out bias-generator design (a real sizing task
* for a future issue) and keeps this netlist robust across all 15 PVT
* points -- an ideal current source has infinite output impedance, so it
* never degrades either stage's intrinsic gain the way a real mirror
* transistor's own finite rds would.
*
* ---- Device sizing (illustrative only) ----
* Input pair at L = 0.28 um (short channel, chosen for fT per DR-0001's own
* input-pair reasoning -- nfet_03v3 fT ~ 25.12 GHz at L=0.28um, Vov=200mV,
* typical corner, sim/gm-id-characterization/records/
* 20260909-052956-79c6a45.md). Second-stage PMOS at L = 4 um (long channel,
* chosen for gm/gds per DR-0001's own output-stage reasoning -- pfet_03v3
* gm/gds ~ 2122.7 at L=4um, Vov=200mV, same record/corner). AS/AD/PS/PD
* follow the same per-micron diffusion convention
* sim/gm-id-characterization/testbench/tb_gmid.spice uses (as=ad~1.5p per
* um of W, ps=pd~2*(W+1.5um)).
*
* ---- Open-loop AC "big resistor" trick ----
* Rfb (see value + derivation near its instance line below) ties vout back
* to the inverting input (vin): DC-closes the loop (self-biases the whole
* amplifier so vout settles near the DC operating point set by vip's DC
* value) while being AC-open (its admittance is negligible at any swept
* frequency vs. the gate capacitance it competes with), so a single .ac
* sweep of vip directly yields the true open-loop gain/GBW/phase margin as
* Vout/Vip.
*
* This is a *fragment*: no `.lib`, `.temp`, `.control`, `.end`. The driver
* (`run_gain_gbw_pm.py`) wraps it with the PDK `.include`/`.lib <corner>`
* header, `.temp <T>`, and a `.control` block that runs the `.ac` sweep and
* writes the raw data with `wrdata`.

* ---- Polarity note (important, verified empirically -- see PR discussion) ----
* In this 5T first-stage topology, the gate of the transistor whose drain is
* the DIODE-CONNECTED mirror side (M1, node d1) is the amplifier's overall
* INVERTING input once the second (inverting, common-source) stage is
* included; the gate of the transistor on the MIRROR-OUTPUT side (M2, node
* d2, which directly drives the second stage) is the overall NON-INVERTING
* input. `vin` (fed back through Rfb) is therefore wired to M1's gate, and
* the AC excitation `vip` is wired to M2's gate -- swapping this produces a
* positive-feedback DC bias loop (verified to still numerically converge to
* *a* solution, but not the intended small-signal AC characterization
* point).

* ---- Supply ----
Vdd vdd 0 dc 3.3

* ---- Inputs ----
* Non-inverting input: DC common-mode bias + AC excitation.
Vip vip 0 dc 1.65 ac 1
* Inverting input: no independent source -- tied only to vout through the
* big feedback resistor below (the "big-R" open-loop trick).

* ---- First stage: NMOS input pair + PMOS mirror load ----
Itail tail 0 dc 40u
M1 d1 vin tail 0 nfet_03v3 w=20u l=0.28u nf=1 as=30p ad=30p ps=43u pd=43u
M2 d2 vip tail 0 nfet_03v3 w=20u l=0.28u nf=1 as=30p ad=30p ps=43u pd=43u
M3 d1 d1 vdd vdd pfet_03v3 w=5u l=1u nf=1 as=8p ad=8p ps=13u pd=13u
M4 d2 d1 vdd vdd pfet_03v3 w=5u l=1u nf=1 as=8p ad=8p ps=13u pd=13u

* ---- Second stage: PMOS common-source gain device + ideal current sink ----
M5 vout d2 vdd vdd pfet_03v3 w=80u l=4u nf=1 as=120p ad=120p ps=163u pd=163u
Ibias2 vout 0 dc 50u

* ---- Compensation + load ----
* Cc = 30 pF chosen empirically (see PR description) to push the
* non-dominant pole far enough above GBW for a sane phase margin with this
* bias point -- larger than a typical "just past CL" Miller cap because
* the illustrative bias currents above are modest (tens of uA).
Cc d2 vout 30p
CL vout 0 2p

* ---- Open-loop DC-feedback / AC-open big resistor ----
* 1e15 ohm: within this trick's usual 1e13-1e15 range. Because the
* inverting-input gate capacitance here is very small (a few fF, short-
* channel input pair), the low-frequency artifact zero this trick
* introduces (Rfb in parallel with that small gate cap) sits within a few
* hundred Hz of DC rather than far below it -- verified empirically by
* sweeping Rfb from 1e13-1e20 ohm and confirming the *peak* AC gain value
* converges (to within ~0.3 dB at 1e15) as Rfb grows, while GBW/phase
* margin extracted from the roll-off region well above the peak are
* unchanged by Rfb's value. The driver reports the swept response's peak
* magnitude as "open-loop DC gain" for this reason (see run_gain_gbw_pm.py
* and the record's own note) -- not a literal f->0 sample.
Rfb vout vin 1e15
